US07241761B2
(a) 6-Nitro-2-piperazin-1-yl-benzothiazole
A mixture of 1.40 mmol 2-chloro-6-nitrobenzothiazole (CA=[2407-11-6]), 4.19 mmol of piperazine and 4.19 mmol of triethylamine in 5 ml of tetrahydrofuran in a sealed tube was heated at 160° C. for 10 min under microwave irradiation. The reaction mixture was concentrated, and the residue was purified by chromatography (SiO2, methanol/dichloromethane) to yield the title compound as a yellow solid.

reactant | 2-chloro-6-nitrobenzothiazole | 1.40 mmol | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | piperazine | 4.19 mmol | N1CCNCC1 | C4H10N2
reactant | triethylamine | 4.19 mmol | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-Nitro-2-piperazin-1-yl-benzothiazole | [N+](=O)([O-])C1=CC2=C(N=C(S2)N2CCNCC2)C=C1 | C11H12N4O2S
